US07589101B2
Synthesis of 4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
To a solution of 4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (0.90 g, 2.91 mmol) in THF (8 mL), cooled at −78° C., is added slowly sec-BuLi (1.4 M in hexane, 4.16 mL, 5.82 mmol). After stirring for 45 minutes, the DMF (0.68 mL, 8.74 mmol) is added at −78° C. The mixture is stirred for 1 hour and quenched with HCl in ether solution (1M, 8.73 mL, 8.73 mmol). The mixture is allowed to warm to room temperature. The reaction mixture is basified with saturated sodium bicarbonate solution to a pH of 8 and extracted with ethyl acetate. The organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated to afford the mixture of the title compounds, which is used for next reaction without any further purification: MS m/z 337.2 (M+1).

reactant | 4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 2.91 mmol, 0.90 g | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | sec-BuLi | 5.82 mmol, 1.4 M, 4.16 mL | [Li]C(C)CC
reactant | DMF | 8.74 mmol, 0.68 mL | CN(C)C=O | C3H7NO
reactant | HCl | Cl | ClH
reactant | ether | 8.73 mmol, 1M, 8.73 mL | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | ClC1=C2C(=NC=C1C=O)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C17H25ClN2OSi
